US05914328
51a. 3-((1-methyl-2-(R)-pyrrolidinyl)methoxy)-6-chloropyridine
A 376 mg (1.2 mmol) sample of 3-((1-t-butoxycarbonyl-2-(R)-pyrrolidinyl)methoxy)-6-chloropyridine, prepared from (R)-1-t-butoxycarbonyl-2-pyrrolidinemethanol by the procedure described in Example 45a above, was treated with paraformaldehyde and formic acid for 2 hours as described in Example 16a above. The crude material was purified by column chromatography on silica gel, eluting with 20:1 chloroform:methanol to afford 219 mg of the title compound. MS (DCI/NH3) m/e: 225/227 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.07 (s, 1H), 7.25-7.18 (m, 2H), 4.02 (dd, J=9.1, 5.4 Hz, 1H), 3.93 (dd, J=9.1, 5.4 Hz, 1H), 3.17-3.11 (m, 1H), 2.71-2.67 (m, 1H), 2.49 (s, 3H), 2.38-2.29 (m, 1H), 2.10-1.98 (m, 1H), 1.91-1.68 (m, 3H). [α]25D =+64.5° (c=1.1, CHCl3).

reactant | 3-((1-t-butoxycarbonyl-2-(R)-pyrrolidinyl)methoxy)-6-chloropyridine | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC=1C=NC(=CC1)Cl | C15H21ClN2O3
reactant | (R)-1-t-butoxycarbonyl-2-pyrrolidinemethanol | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CO | C10H19NO3
reactant | paraformaldehyde | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | 3-((1-methyl-2-(R)-pyrrolidinyl)methoxy)-6-chloropyridine | 219 mg | CN1[C@H](CCC1)COC=1C=NC(=CC1)Cl | C11H15ClN2O
